US05013814
Analogously to Example 4c), 100 g (230 mmol) of tris(p-methylbenzyl)sulfonium tetrafluoroborate are reacted with 119.0 g (460 mmol) of sodium hexafluoroantimonate. Recrystallization in isopropanol gives 117.1 g (87% of theory) of tris(p-methylbenzyl)sulfonium hexafluoroantimonate in the form of white crystals of melting point 88°-91° C.

reactant | tris(p-methylbenzyl)sulfonium tetrafluoroborate | 230 mmol, 100 g | F[B-](F)(F)F.CC1=CC=C(C[S+](CC2=CC=C(C=C2)C)CC2=CC=C(C=C2)C)C=C1
reactant | sodium hexafluoroantimonate | 460 mmol, 119.0 g | F[Sb-](F)(F)(F)(F)F.[Na+]
product | tris(p-methylbenzyl)sulfonium hexafluoroantimonate | 117.1 g, 87% | F[Sb-](F)(F)(F)(F)F.CC1=CC=C(C[S+](CC2=CC=C(C=C2)C)CC2=CC=C(C=C2)C)C=C1 | InChI=1S/C24H27S.6FH.Sb/c1-19-4-10-22(11-5-19)16-25(17-23-12-6-20(2)7-13-23)18-24-14-8-21(3)9-15-24;;;;;;;/h4-15H,16-18H2,1-3H3;6*1H;/q+1;;;;;;;+5/p-6
